Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
fetal deceleration
 
Major Surgical or Invasive Procedure:
low transverse cesarean section
 
History of Present Illness:
___ G2P1 at ___+5 with poorly controlled T1DM, sent from ___ for 
prolonged monitoring due to 2 min fetal HR deceleration in 
office today. Pt has been having intermittent contractions, 
getting worse over last several days. Denies VB or LOF. +AFM.
 
Past Medical History:
PNC:
-___: ___ by early U/S
-Labs: A+/Ab-/HBsAg-/RPRNR/RI/HIV-/GBS+urine
-Screening: LR ERA, Hg electro c/w alpha thal trait
-FFS: WNL, posterior placenta, GIRL!
-T1DM
-EFW: ___, 63%ile, AC 90%ile
-Issues:
*T1DM, poorly controlled, baseline A1C 9.9, followed by endo at 
___, checks ___ only 2x daily
*obesity, BMI 35
*scoliosis - first labor epidural placed 3 times with little 
relief
OBHx:
-___ SVD ___ female 6#9
-G2 current
GynHx: ___ ASCUS, HPV pos, colpo nl. chronic BV/yeast. Remote 
h/o chlamydia.
PMH: T1DM, vit D deficiency
PSH: denies
 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
Physical Exam on Discharge: 
VS: Afebrile, VSS 
Neuro/Psych: NAD, Oriented x3, Affect Normal 
Heart: RRR
Lungs: CTA b/l
Abdomen: soft, appropriately tender, fundus firm, incision c/d/i
Pelvis: minimal bleeding 
Extremities: warm and well perfused, no calf tenderness, no 
edema 
 
Pertinent Results:
___ 06:11AM BLOOD Hct-22.9*#
___ 06:29PM BLOOD WBC-13.2* RBC-4.52 Hgb-10.5* Hct-31.6* 
MCV-70* MCH-23.2* MCHC-33.2 RDW-15.3 RDWSD-37.8 Plt ___
___ 06:29PM BLOOD Glucose-267* UreaN-10 Creat-0.6 Na-133 
K-4.1 Cl-99 HCO3-21* AnGap-17
 
Brief Hospital Course:
Ms. ___ is a ___ yo G2P2 who underwent primary low transverse 
cesarean section on ___, complicated by poorly controlled 
type 1 diabetes.  Her antepartum home insulin regimen was: 
Lantus 40 units QHS, Humalog sliding scale w/carb counting ___ 
units.  Intrapartum, she was on an insulin drip, and was 
transitioned to lantus, Humalog, and a Humalog insulin sliding 
scale following delivery when she was able to tolerate PO.  She 
was followed by ___, and her regimen was eventually 
uptitrated to:  Lantus 16 units qHS and Humalog 6 units TID with 
meals + Humalog insulin sliding scale.  Her post partum course 
was otherwise uncomplicated.  She ambulated and her foley was 
discontinued and she voided spontaneously. Her diet was advanced 
without incident. 

By postpartum day 5, she was tolerating a regular diet, 
ambulating independently, and pain was controlled with oral 
medications. She was afebrile with stable vital signs. She was 
then discharged home in stable condition with postpartum 
outpatient follow-up scheduled.

 
Medications on Admission:
Lantus 40 units QHS, Humalog sliding scale with carb couting 
___ units, PNV
 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain  
2.  Bisacodyl ___AILY:PRN Constipation  
3.  Docusate Sodium 100 mg PO BID:PRN Constipation  
4.  Ibuprofen 600 mg PO Q6H:PRN Pain 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every six (6) hours 
Disp #*40 Tablet Refills:*0 
5.  Humalog 6 Units Breakfast
Humalog 6 Units Lunch
Humalog 6 Units Dinner
Lantus 16 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin 
6.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone [Oxaydo] 5 mg 1 tablet(s) by mouth q6hr Disp #*20 
Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
s/p primary cesarean section
Type I diabetes 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
see danger signs
 
Followup Instructions:
___